US05891909
c) 3-[3-(2-Methoxy-5-methylphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
To a cooled (0° C.), stirred solution of 528 mg (1.44 mmol) of 3-[3-(2-methoxy-5-methylphenylsulfonyloxy)-5-methylphenoxy]propanol, as prepared in the preceding step, 527 μL (3.02 mmol) of N,N-diisopropylethylamine and 307 μL (4.32 mmol) of anhydrous dimethyl sulfoxide in 6.0 mL of anhydrous dichloromethane was added 459 mg (2.88 mmol) of sulfur trioxide pyridine complex. The mixture was warmed to ambient temperature over 30 min and stirred for 16 h. The mixture was poured into 15 mL of dichloromethane and washed with 5% (w/v) aqueous citric acid (2×25 mL). Each wash was extracted with 5 mL of dichloromethane and the combined extracts were washed with brine (25 mL), dried over Na2SO4 and concentrated. The resulting material was chromatographed on 35 g of silica gel with dichloromethane followed by 3% ethyl acetate-dichlorometharie to afford 320 mg (61%) of the title compound as a colorless syrup: 1H-NMR (300 MHz; CDCl3) δ 9.83 (t, 1 H, J=1.4 Hz), 7.63 (d, 1 H, J=2.3 Hz), 7.40 (dd, 1 H, J=8.5, 2.3 Hz), 6.98 (d, 1 H, J=8.5 Hz), 6.59 (br s, 1 H), 6.55 (br s, 1 H), 6.46 (t, 1 H, J=2.1 Hz), 4.19 (t, 2 H, J=6.1 Hz), 3.98 (s, 3 H), 2.85 (td, 2 H, J=6.1, 1.4 Hz), 2.29 (s, 3 H) and 2.25 (s, 3 H).

reactant | 3-[3-(2-methoxy-5-methylphenylsulfonyloxy)-5-methylphenoxy]propanol | 1.44 mmol, 528 mg | COC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C18H22O6S
reactant | N,N-diisopropylethylamine | 3.02 mmol, 527 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 4.32 mmol, 307 μL | CS(=O)C | C2H6OS
solvent | dichloromethane | 6.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[3-(2-Methoxy-5-methylphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 320 mg, 61% | COC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C18H20O6S
